US06790860B2
(6-ring): To a solution of (2RS,5RS)-(5-tert-butoxymethyl-1-methanesulfonyl-piperidin-2-yl)-methanol (2.80 g) in dichloromethane (20 ml) and cyclohexane (30 ml) was added benzyl 2,2,2-trichloroacetimidate (3.03 g) and trifluoromethanesulphonic acid (0.2 ml). The reaction mixture was stirred 1 h at room temperature, poured onto a saturated sodium bicarbonate solution and extracted with EtOAc. The organic phase was washed with brine, dried over magnesium sulphate and concentrated. The residue was chromatographed on silica gel using EtOAc/hexane 1:3 and 1:2 as eluents to obtain (2RS,5RS)-2-benzyloxymethyl-5-tert-butoxymethyl-1-methanesulfonyl-piperidine (3,6 g) as a syrup, MS: 369 (M+).

reactant | (2RS,5RS)-(5-tert-butoxymethyl-1-methanesulfonyl-piperidin-2-yl)-methanol | 2.80 g | C(C)(C)(C)OCC1CCC(N(C1)S(=O)(=O)C)CO | C12H25NO4S
reactant | benzyl 2,2,2-trichloroacetimidate | 3.03 g | ClC(C(OCC1=CC=CC=C1)=N)(Cl)Cl | C9H8Cl3NO
reactant | trifluoromethanesulphonic acid | 0.2 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | cyclohexane | 30 ml | C1CCCCC1 | C6H12
product | (2RS,5RS)-2-benzyloxymethyl-5-tert-butoxymethyl-1-methanesulfonyl-piperidine | 3,6 g | C(C1=CC=CC=C1)OCC1N(CC(CC1)COC(C)(C)C)S(=O)(=O)C | C19H31NO4S
